US08283354B2
A solution of neopentyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (215 mg, 0.48 mmol) in CH2Cl2 (2 ml) was stirred under an N2 atmosphere. A 1.0 M HCl solution in ether (0.48 ml, 0.48 mmol) was added dropwise to this solution. After 10 minutes, ether (8 ml) was added until a precipitate formed, which was filtered and dried to obtain neopentyl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate hydrochloride (214 mg, 92%). LC/MS: m/z 449 (M+H)+ at 2.75 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | neopentyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 0.48 mmol, 215 mg | C(C(C)(C)C)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H32N4O3
reactant | HCl | 1.0 M | Cl | ClH
reactant | ether | 0.48 mmol, 0.48 ml | CCOCC | C4H10O
reactant | ether | 8 ml | CCOCC | C4H10O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | neopentyl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate hydrochloride | 214 mg, 92% | Cl.OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)CNC(OCC(C)(C)C)=O)C | InChI=1S/C26H32N4O3.ClH/c1-17-9-10-19-21(13-17)28-23(20-7-5-6-8-22(20)31)29-24(19)30-12-11-18(15-30)14-27-25(32)33-16-26(2,3)4;/h5-10,13,18,31H,11-12,14-16H2,1-4H3,(H,27,32);1H/t18-;/m0./s1
